US08445501B2
4-(5-Acetyl-2-cyclopropylmethoxy-4-methyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (1-acetyl-piperidin-4-yl)-amide
Starting from 4-(5-acetyl-2-cyclopropylmethoxy-4-methyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example A82) and 1-(4-amino-piperidin-1-yl)-ethanone (A191) the title compound is obtained as colorless solid.

reactant | 4-(5-acetyl-2-cyclopropylmethoxy-4-methyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C(C)(=O)C=1C(=CC(=C(C1)C=1C2=C(N=CN1)C(=CN2)C(=O)O)OCC2CC2)C | C20H19N3O4
reactant | 1-(4-amino-piperidin-1-yl)-ethanone | NC1CCN(CC1)C(C)=O | C7H14N2O
product | 4-(5-Acetyl-2-cyclopropylmethoxy-4-methyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (1-acetyl-piperidin-4-yl)-amide | C(C)(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)C(C)=O)C)OCC2CC2 | C27H31N5O4
